* Provenance: written for circsim from manufacturer datasheet parameters, MIT.
* In-house BEHAVIORAL op-amp / comparator macromodels. No vendor model text is
* copied: the topology below is a textbook three-block behavioral op-amp (input
* stage -> single dominant pole with finite open-loop gain -> slew-limited,
* rail-clamped output buffer), and the per-part .subckt wrappers simply pass the
* DATASHEET numbers (open-loop gain Aol, gain-bandwidth GBW, slew rate, output
* swing relative to the rails) as parameters. Datasheet electrical
* characteristics are facts, not copyrightable expression.
*
* ---------------------------------------------------------------------------
* GENERIC PARAMETERIZED OP-AMP CORE
* ---------------------------------------------------------------------------
* Nodes:  inp inn out vcc vee
* Params:
*   aol   open-loop DC gain (V/V)              gbw   gain-bandwidth product (Hz)
*   slew  slew rate (V/s)                      vos   input offset voltage (V)
*   rout  open-loop output resistance (ohm)    vsathi headroom from +rail (V)
*   vsatlo headroom from -rail (V)             ibias not modeled (hi-Z inputs)
*
* How it works:
*   1. Ein senses (inp-inn+vos) into a high-impedance node 'e'.
*   2. The dominant pole is realized by Gm into Rp||Cp; we set Rp so the DC gain
*      across it is aol, and Cp so the pole is at fp = gbw/aol  (Cp = 1/(2*pi*Rp*fp)).
*      Node 'vpole' therefore holds aol*(inp-inn) rolled off at fp -> unity gain at gbw.
*   3. Slew limiting: the current into Cp is clipped to +/- (slew*Cp), so dV/dt on
*      vpole cannot exceed the datasheet slew rate.
*   4. The output buffer Bout copies vpole but clamps to [vee+vsatlo, vcc-vsathi]
*      and drives through rout.
.subckt opamp_core inp inn out vcc vee
+ params: aol=100k gbw=1e6 slew=0.5e6 vos=0 rout=75 vsathi=1.5 vsatlo=0.0
* input sense (high-Z): e = (inp - inn) + offset
bin e 0 v = v(inp) - v(inn) + vos
* dominant-pole network. Rp chosen for DC gain = aol; Cp for pole at gbw/aol.
* A transconductance gm=1 drives Rp||Cp, so V(vpole) = gm*V(e)*Rp at DC and the
* pole sits at fp = 1/(2*pi*Rp*Cp). Set Rp=aol (gm=1 -> DC gain=aol) and
* Cp = 1/(2*pi*Rp*fp) with fp = gbw/aol -> unity-gain crossing at gbw.
.param rp = {aol}
.param cp = {1/(6.283185307*rp*(gbw/aol))}
* transconductance with slew-rate current clamp. The current delivered into the
* pole node is gm*v(e) (gm=1) but limited to +/- imax = slew*Cp so the maximum
* dV/dt on Cp equals the datasheet slew rate.
.param imax = {slew*cp}
bg 0 vpole i = (abs(v(e)) > imax) ? (imax*sgn(v(e))) : v(e)
rp vpole 0 {rp}
cp vpole 0 {cp}
* output buffer: follow vpole, clamp to the supply rails minus headroom, drive
* through rout. Clamp limits computed live from the actual rail nodes.
bout obuf 0 v = (v(vpole) > (v(vcc)-vsathi)) ? (v(vcc)-vsathi) :
+ ((v(vpole) < (v(vee)+vsatlo)) ? (v(vee)+vsatlo) : v(vpole))
rout obuf out {rout}
.ends opamp_core

* ---------------------------------------------------------------------------
* LM358 / LM2904 dual op-amp (single-supply, ground-sensing input).
* Datasheet typ: Aol=100 dB (100k V/V), GBW=1.1 MHz, SR=0.5 V/us, Vos=2 mV,
* output swings to within ~1.5 V of V+ (no rail-to-rail), down to ~20 mV of V-.
.subckt LM358 inp inn out vcc vee
xa inp inn out vcc vee opamp_core
+ params: aol=100k gbw=1.1e6 slew=0.5e6 vos=2e-3 rout=100 vsathi=1.5 vsatlo=0.02
.ends LM358

* ---------------------------------------------------------------------------
* LM324 quad op-amp — same single-supply core as LM358.
* Datasheet typ: Aol=100k, GBW=1.2 MHz, SR=0.5 V/us, Vos=2 mV, swing as LM358.
.subckt LM324 inp inn out vcc vee
xa inp inn out vcc vee opamp_core
+ params: aol=100k gbw=1.2e6 slew=0.5e6 vos=2e-3 rout=100 vsathi=1.5 vsatlo=0.02
.ends LM324

* ---------------------------------------------------------------------------
* TL072 / TL071 / TL074 JFET-input dual op-amp.
* Datasheet typ: Aol=200 V/mV (200k), GBW=3 MHz, SR=13 V/us, Vos=3 mV,
* output swing within ~1.5 V of either rail.
.subckt TL072 inp inn out vcc vee
xa inp inn out vcc vee opamp_core
+ params: aol=200k gbw=3e6 slew=13e6 vos=3e-3 rout=120 vsathi=1.5 vsatlo=1.5
.ends TL072

* ---------------------------------------------------------------------------
* LM393 / LM339 COMPARATOR — open-collector output variant.
* The input stage + high gain is reused, but the output is an open-collector
* NPN to V- (off = high-Z, on = pulled to V-). The user must add an external
* pull-up; with no pull-up the output node floats (correct OC behavior).
* Datasheet typ: large-signal gain ~200 V/mV, response time ~1.3 us
* (modeled via a finite GBW so the comparator is not infinitely fast),
* Vol(sat) ~ 250 mV @ 4 mA.
* Nodes: inp inn out vcc vee  (out is the open-collector pin)
.subckt LM393 inp inn out vcc vee
* high-gain decision node 'dec' relative to vee (single supply friendly)
xc inp inn dec vcc vee opamp_core
+ params: aol=200k gbw=0.8e6 slew=10e6 vos=1e-3 rout=50 vsathi=0.3 vsatlo=0.2
* open-collector pulldown: when dec is HIGH (>mid) the output transistor is OFF
* (high-Z); when dec is LOW the transistor pulls 'out' toward vee through Ron.
* Model as a voltage-controlled resistance from out to vee.
* gatev ~ 1 when output should be LOW (dec low), ~0 when output high-Z.
bsw out vee i = (v(dec) < ((v(vcc)+v(vee))/2)) ?
+ ((v(out)-v(vee))/40) : ((v(out)-v(vee))/1e9)
.ends LM393
