* Provenance: written for circsim from manufacturer datasheet parameters, MIT.
* In-house BEHAVIORAL op-amp / comparator macromodels. No vendor model text is
* copied: the topology below is a textbook three-block behavioral op-amp (input
* stage -> single dominant pole with finite open-loop gain -> slew-limited,
* rail-clamped output buffer), and the per-part .subckt wrappers simply pass the
* DATASHEET numbers (open-loop gain Aol, gain-bandwidth GBW, slew rate, output
* swing relative to the rails) as parameters. Datasheet electrical
* characteristics are facts, not copyrightable expression.
*
* ---------------------------------------------------------------------------
* GENERIC PARAMETERIZED OP-AMP CORE
* ---------------------------------------------------------------------------
* Nodes:  inp inn out vcc vee
* Params:
*   aol   open-loop DC gain (V/V)              gbw   gain-bandwidth product (Hz)
*   slew  slew rate (V/s)                      vos   input offset voltage (V)
*   rout  open-loop output resistance (ohm)    vsathi headroom from +rail (V)
*   vsatlo headroom from -rail (V)             ibias not modeled (hi-Z inputs)
*
* How it works:
*   1. Ein senses (inp-inn+vos) into a high-impedance node 'e'.
*   2. The dominant pole is realized by Gm into Rp||Cp; we set Rp so the DC gain
*      across it is aol, and Cp so the pole is at fp = gbw/aol  (Cp = 1/(2*pi*Rp*fp)).
*      Node 'vpole' therefore holds aol*(inp-inn) rolled off at fp -> unity gain at gbw.
*   3. Slew limiting: the current into Cp is clipped to +/- (slew*Cp), so dV/dt on
*      vpole cannot exceed the datasheet slew rate.
*   4. The output buffer Bout copies vpole but clamps to [vee+vsatlo, vcc-vsathi]
*      and drives through rout.
.subckt opamp_core inp inn out vcc vee
+ params: aol=100k gbw=1e6 slew=0.5e6 vos=0 rout=75 vsathi=1.5 vsatlo=0.0
* input sense (high-Z): e = (inp - inn) + offset
bin e 0 v = v(inp) - v(inn) + vos
* dominant-pole network. Rp chosen for DC gain = aol; Cp for pole at gbw/aol.
* A transconductance gm=1 drives Rp||Cp, so V(vpole) = gm*V(e)*Rp at DC and the
* pole sits at fp = 1/(2*pi*Rp*Cp). Set Rp=aol (gm=1 -> DC gain=aol) and
* Cp = 1/(2*pi*Rp*fp) with fp = gbw/aol -> unity-gain crossing at gbw.
.param rp = {aol}
.param cp = {1/(6.283185307*rp*(gbw/aol))}
* transconductance with slew-rate current clamp. The current delivered into the
* pole node is gm*v(e) (gm=1) but limited to +/- imax = slew*Cp so the maximum
* dV/dt on Cp equals the datasheet slew rate.
.param imax = {slew*cp}
bg 0 vpole i = (abs(v(e)) > imax) ? (imax*sgn(v(e))) : v(e)
rp vpole 0 {rp}
cp vpole 0 {cp}
* output buffer: follow vpole, clamp to the supply rails minus headroom, drive
* through rout. Clamp limits computed live from the actual rail nodes.
bout obuf 0 v = (v(vpole) > (v(vcc)-vsathi)) ? (v(vcc)-vsathi) :
+ ((v(vpole) < (v(vee)+vsatlo)) ? (v(vee)+vsatlo) : v(vpole))
rout obuf out {rout}
.ends opamp_core

* ---------------------------------------------------------------------------
* LM358 / LM2904 dual op-amp (single-supply, ground-sensing input).
* Datasheet typ: Aol=100 dB (100k V/V), GBW=1.1 MHz, SR=0.5 V/us, Vos=2 mV,
* output swings to within ~1.5 V of V+ (no rail-to-rail), down to ~20 mV of V-.
.subckt LM358 inp inn out vcc vee
xa inp inn out vcc vee opamp_core
+ params: aol=100k gbw=1.1e6 slew=0.5e6 vos=2e-3 rout=100 vsathi=1.5 vsatlo=0.02
.ends LM358

* ---------------------------------------------------------------------------
* LM324 quad op-amp — same single-supply core as LM358.
* Datasheet typ: Aol=100k, GBW=1.2 MHz, SR=0.5 V/us, Vos=2 mV, swing as LM358.
.subckt LM324 inp inn out vcc vee
xa inp inn out vcc vee opamp_core
+ params: aol=100k gbw=1.2e6 slew=0.5e6 vos=2e-3 rout=100 vsathi=1.5 vsatlo=0.02
.ends LM324

* ---------------------------------------------------------------------------
* TL072 / TL071 / TL074 JFET-input dual op-amp.
* Datasheet typ: Aol=200 V/mV (200k), GBW=3 MHz, SR=13 V/us, Vos=3 mV,
* output swing within ~1.5 V of either rail.
.subckt TL072 inp inn out vcc vee
xa inp inn out vcc vee opamp_core
+ params: aol=200k gbw=3e6 slew=13e6 vos=3e-3 rout=120 vsathi=1.5 vsatlo=1.5
.ends TL072

* ---------------------------------------------------------------------------
* LM393 / LM339 COMPARATOR — open-collector output variant.
* The input stage + high gain is reused, but the output is an open-collector
* NPN to V- (off = high-Z, on = pulled to V-). The user must add an external
* pull-up; with no pull-up the output node floats (correct OC behavior).
* Datasheet typ: large-signal gain ~200 V/mV, response time ~1.3 us
* (modeled via a finite GBW so the comparator is not infinitely fast),
* Vol(sat) ~ 250 mV @ 4 mA.
* Nodes: inp inn out vcc vee  (out is the open-collector pin)
.subckt LM393 inp inn out vcc vee
* high-gain decision node 'dec' relative to vee (single supply friendly)
xc inp inn dec vcc vee opamp_core
+ params: aol=200k gbw=0.8e6 slew=10e6 vos=1e-3 rout=50 vsathi=0.3 vsatlo=0.2
* open-collector pulldown: when dec is HIGH (>mid) the output transistor is OFF
* (high-Z); when dec is LOW the transistor pulls 'out' toward vee through Ron.
* Model as a voltage-controlled resistance from out to vee.
* gatev ~ 1 when output should be LOW (dec low), ~0 when output high-Z.
bsw out vee i = (v(dec) < ((v(vcc)+v(vee))/2)) ?
+ ((v(out)-v(vee))/40) : ((v(out)-v(vee))/1e9)
.ends LM393

* ---------------------------------------------------------------------------
* LM339 / LM2901 QUAD COMPARATOR — full-package wrapper (M11).
* Four instances of the LM393 open-collector behavioral cell above, sharing
* vcc/vee. Terminal names match the comparator-lm339 pinMap values in
* index.json. Every output is open-collector: an external pull-up is required
* (with no pull-up the output pin floats — correct OC behavior).
.subckt LM339_QUAD in1p in1n out1 in2p in2n out2 in3p in3n out3 in4p in4n out4 vcc vee
x1 in1p in1n out1 vcc vee LM393
x2 in2p in2n out2 vcc vee LM393
x3 in3p in3n out3 vcc vee LM393
x4 in4p in4n out4 vcc vee LM393
.ends LM339_QUAD
